US07776869B2
A mixture of 5-(2-(2-aminopyrimidin-5-yl)ethynyl)-2-fluoro-N-(2-(piperidin-1-yl)-5-(trifluoromethyl)phenyl)benzamide (0.14 g, 0.29 mmol) and NaOMe (0.5 M solution in methanol, 2.0 mL, 1.0 mmol) in a sealed tube was heated to reflux. After 16 h, the reaction was cooled and partitioned between EtOAc and brine. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated. The material was purified by preparative TLC, eluting with 30% acetone/dichloromethane to give 5-(2-(2-aminopyrimidin-5-yl)ethynyl)-2-methoxy-N-(2-(piperidin-1-yl)-5-(trifluoromethyl)phenyl)benzamide as a white solid. MS m/z=496 [M+H]+. Calc'd for C26H24F3N5O2: 495.

reactant | 5-(2-(2-aminopyrimidin-5-yl)ethynyl)-2-fluoro-N-(2-(piperidin-1-yl)-5-(trifluoromethyl)phenyl)benzamide | 0.29 mmol, 0.14 g | NC1=NC=C(C=N1)C#CC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)N2CCCCC2)C1)F | C25H21F4N5O
reactant | NaOMe | 1.0 mmol, 0.5 M, 2.0 mL | C[O-].[Na+]
product | 5-(2-(2-aminopyrimidin-5-yl)ethynyl)-2-methoxy-N-(2-(piperidin-1-yl)-5-(trifluoromethyl)phenyl)benzamide | NC1=NC=C(C=N1)C#CC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)N2CCCCC2)C1)OC | C26H24F3N5O2
